US05409937
4Chloro-3-nitropyridine (160 mg, 1.0 mmol) is added to a stirred solution of 5-(2-aminoethyl)-2-(4-fluorophenyl)hexahydrofuro[2,3-b]furan (200 mg, 0.8 mmol) and triethylamine (1.0 ml) in chloroform (15 ml) at ambient temperature. The reaction mixture is stirred overnight, then washed with water, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure to leave an orange oil. This is purified by chromatography over silica (1:1 ethyl acetate/hexane) to give 2-(4-fluorophenyl)-5-(2-(N-3-nitropyrid-4-ylaminoethyl)hexahydrofuro[2,3-b]furan (175 mg, 59%) as a yellow amorphous solid.

reactant | 4Chloro-3-nitropyridine | 1.0 mmol, 160 mg | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 5-(2-aminoethyl)-2-(4-fluorophenyl)hexahydrofuro[2,3-b]furan | 0.8 mmol, 200 mg | NCCC1CC2C(O1)OC(C2)C2=CC=C(C=C2)F | C14H18FNO2
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-3-nitropyrid-4-ylaminoethyl)hexahydrofuro[2,3-b]furan | 175 mg, 59% | [N+](=O)([O-])C=1C=NC=CC1NCCC1CC2C(OCC2)O1 | C13H17N3O4
